US07829560B2
3-Fluoro-5-(4-methylpiperidin-1-yl)-N-{4-[(2-morpholin-4-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide (Compound B265).
Compound is prepared from 3-fluoro-5-(4-methylpiperidin-1-yl)-N-(4-{[2-(methylthio)pyrimidin-4-yl]oxy}-1-naphthyl)benzamide (0.1 g, 0.2 mmol) and morpholine (10 mmol) according to conditions described in Step 4 of Example 3 and general procedure C. A pink solid is produced (15 mg). Mp: 88-89° C.; 1H NMR (300 MHz, CDCl3) δ 0.98 (d, J=6.6 Hz, 3 H), 1.25-1.38 (m, 3H), 1.75 (d, J=12.6 Hz, 2H), 2.78-2.86 (m, 2H), 3.64 (s, 9H), 3.77 (d, J=12 Hz, 1H), 6.07 (d, J=5.7 Hz, 1H), 6.77 (d, J=12 Hz, 1H), 6.98 (d, J=7.8 Hz, 1H), 2.30-7.33 (m, 2H), 7.49-7.60 (m, 2H), 7.89-7.99 (m, 3 H), 8.13 (s, 1H), 8.18 (d, J=5.7 Hz, 1H); MS 542 (M+1).

reactant | 3-fluoro-5-(4-methylpiperidin-1-yl)-N-(4-{[2-(methylthio)pyrimidin-4-yl]oxy}-1-naphthyl)benzamide | 0.2 mmol, 0.1 g | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)SC)C=C(C1)N1CCC(CC1)C | C28H27FN4O2S
reactant | morpholine | 10 mmol | N1CCOCC1 | C4H9NO
product | 3-Fluoro-5-(4-methylpiperidin-1-yl)-N-{4-[(2-morpholin-4-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCOCC2)C=C(C1)N1CCC(CC1)C | C31H32FN5O3
